US06117875
To a solution of 4-(3-aminophenyl)-2-(3-pyridylmethyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (300 mg) and triethylamine (0.33 ml) in 1,4-dioxane (10 ml) was added 5-bromo-3-pyridylcarbonyl chloride·hydrochloride (304 mg). The mixture was stirred at room temperature for 15 minutes, then poured into aqueous sodium bicarbonate and extracted with ethyl acetate. The organic solution was washed with aqueous sodium bicarbonate and brine, dried over magnesium sulfate and concentrated. The residue was crystallized from methanol to give 4-[3-[(5-bromo-3-pyridyl)carbonylamino]phenyl]-2-(3-pyridylmethyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (256 mg).

reactant | 4-(3-aminophenyl)-2-(3-pyridylmethyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 300 mg | NC=1C=C(C=CC1)N1C2=C(N=C(C1=O)CC=1C=NC=CC1)C=CC=N2 | C19H15N5O
reactant | triethylamine | 0.33 ml | C(C)N(CC)CC | C6H15N
reactant | 5-bromo-3-pyridylcarbonyl chloride·hydrochloride | 304 mg | BrC=1C=C(C=NC1)C(=O)Cl.Cl
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 4-[3-[(5-bromo-3-pyridyl)carbonylamino]phenyl]-2-(3-pyridylmethyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 256 mg | BrC=1C=C(C=NC1)C(=O)NC=1C=C(C=CC1)N1C2=C(N=C(C1=O)CC=1C=NC=CC1)C=CC=N2 | C25H17BrN6O2
